US05478858
N-(1-tert-Butoxycarbonyl-7-fluoro-4-methyl-5-benzimidazolyl)-N'-2-aminoethylthiourea.
A solution of 1-tert-butoxycarbonyl-7-fluoro-4-methyl-5-benzimidazolylisothiocyanate (0.42 g) in methylene chloride (50 mL) is added dropwise over 15 minutes to 1,2-ethylenediamine (0.45 mL) in solution in methylene chloride (100 mL). The mixture is stirred for 10 minutes at room temperature, then rotary evaporated. The residue is triturated for 30 minutes with ether (100 mL). The resulting white suspension is filtered and the solid is dried in vacuo overnight.

reactant | 1-tert-butoxycarbonyl-7-fluoro-4-methyl-5-benzimidazolylisothiocyanate | 0.42 g | C(C)(C)(C)OC(=O)N1C=NC2=C1C(=CC(=C2C)N=C=S)F | C14H14FN3O2S
reactant | 1,2-ethylenediamine | 0.45 mL | C(CN)N | C2H8N2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(1-tert-Butoxycarbonyl-7-fluoro-4-methyl-5-benzimidazolyl)-N'-2-aminoethylthiourea | C(C)(C)(C)OC(=O)N1C=NC2=C1C(=CC(=C2C)NC(=S)NCCN)F | C16H22FN5O2S
